US09422271B2
A mixture of 2-(4-(4-chloro-5-nitropyrimidin-2-yl)phenyl)acetonitrile (55 mg, 0.2 mmol, 1 equiv.) and 5-cyclopropyl-1H-pyrazol-3-amine (37 mg, 0.3 mmol, 1.5 equiv.) in ethanol (2 ml) was stirred at 85° C. for 15 h. Ethanol was remove under reduce pressure. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 100:1) to afford 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-nitropyrimidin-2-yl)phenyl)acetonitrile (45 mg, 62%) as solid. The compound was determination by LC-MS (LC-MS (m/z)=362.1 [M+H]+).

reactant | 2-(4-(4-chloro-5-nitropyrimidin-2-yl)phenyl)acetonitrile | 0.2 mmol, 55 mg, 1 equiv. | ClC1=NC(=NC=C1[N+](=O)[O-])C1=CC=C(C=C1)CC#N | C12H7ClN4O2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 0.3 mmol, 37 mg, 1.5 equiv. | C1(CC1)C1=CC(=NN1)N | C6H9N3
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-nitropyrimidin-2-yl)phenyl)acetonitrile | 45 mg, 62% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1[N+](=O)[O-])C1=CC=C(C=C1)CC#N | C18H15N7O2
